US05580904
N-(carboxymethyl)thiazolium bromide
Thiazole (8.5 g), 2-bromoacetic acid (15.0 g) and acetone (20 ml) were mixed together and left standing at room temperature for 2 days. White crystals deposited were collected by filtration and washed with acetone.

reactant | Thiazole | 8.5 g | S1C=NC=C1 | C3H3NS
reactant | 2-bromoacetic acid | 15.0 g | BrCC(=O)O | C2H3BrO2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N-(carboxymethyl)thiazolium bromide | [Br-].C(=O)(O)C[N+]1=CSC=C1 | InChI=1S/C5H5NO2S.BrH/c7-5(8)3-6-1-2-9-4-6;/h1-2,4H,3H2;1H
